US09023864B2
Propyl {4-fluoro-6-methyl-7-[(methylsulfonyl)oxy]-6,7,8,9-tetrahydropyrido[1,2-α]indol-10-yl}acetate was dissolved in DMF (1 M) and treated with NaN3 (2.0 eq.), warmed to 80° C. and stirred overnight. The reaction mixture was diluted with EtOAc and extracted with sat'd NH4Cl, water, dried (Na2SO4) and concentrated. Chromatography on SiO2 (0-100% EtOAc/hexanes) gave propyl (7-azido-4-fluoro-6-methyl-6,7,8,9-tetrahydropyrido[1,2-α]indol-10-yl)acetate: 1H NMR (600 MHz, CDCl3) δ 7.30 (d, J=7.9 Hz, 1 H), 6.96-6.99 (m, 1 H), 6.80 (dd, J=12.6, 7.6 Hz, 1 H), 4.87 (dd, J=13.2, 6.5 Hz, 1 H), 4.10 (d, J=7.0 Hz, 1 H), 4.02 (t, J=6.2 Hz, 2 H), 3.61 (m, 2 H), 3.01 (m, 2 H), 2.10-2.20 (m, 2 H), 1.57-1.63 (m, 2 H), 1.43 (d, J=6.8 Hz, 3 H), 0.87 (t, J=7.3 Hz, 3 H); MS (EI) calc'd for C18H22FN4O2 [M+1]+345.2, found 345.1.

reactant | Propyl {4-fluoro-6-methyl-7-[(methylsulfonyl)oxy]-6,7,8,9-tetrahydropyrido[1,2-α]indol-10-yl}acetate | FC=1C=CC=C2C(=C3N(C12)C(C(CC3)OS(=O)(=O)C)C)CC(=O)OCCC | C19H24FNO5S
reactant | NaN3 | 2.0 eq. | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 1 M | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | propyl (7-azido-4-fluoro-6-methyl-6,7,8,9-tetrahydropyrido[1,2-α]indol-10-yl)acetate | N(=[N+]=[N-])C1CCC=2N(C3=C(C=CC=C3C2CC(=O)OCCC)F)C1C | C18H21FN4O2
